US06727264B1
[(1-FORMYL-2-NAPHTHYL)OXY]ACETONITRILE:
Prepared according to the Procedure for 2-(isopentyloxy)-1-naphthaldehyde using 2-hydroxy-1-naphthaldehyde and bromoacetonitrile.

reactant | 2-(isopentyloxy)-1-naphthaldehyde | C(CC(C)C)OC1=C(C2=CC=CC=C2C=C1)C=O | C16H18O2
reactant | 2-hydroxy-1-naphthaldehyde | OC1=C(C2=CC=CC=C2C=C1)C=O | C11H8O2
reactant | bromoacetonitrile | BrCC#N | C2H2BrN
product | [(1-FORMYL-2-NAPHTHYL)OXY]ACETONITRILE | C(=O)C1=C(C=CC2=CC=CC=C12)OCC#N | C13H9NO2
